2109-09-02 07:02:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Patient required > 200 mg of diazepam overnight.
   Patient was free water restricted, and sodium improved.
   Patient was delerious and agitated overnight.
   History obtained from Patient, Family / Friend
   [**Name (NI) **] unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2109-9-1**] 06:39 PM
   Levofloxacin - [**2109-9-1**] 06:41 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-9-1**] 09:00 PM
   Diazepam (Valium) - [**2109-9-2**] 04:06 AM
   Other medications:
   Diazepam 20IV q1 hour PRN ciwa
   HSQ
   MVI
   Thiamine
   Tylenol PRN
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-9-2**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.8
   HR: 78 (78 - 126) bpm
   BP: 111/72(81) {82/51(64) - 136/100(106)} mmHg
   RR: 12 (11 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.3 kg (admission): 92.4 kg
   Height: 75 Inch
                  Total In:
                                                                  5,250 mL
                  PO:
                                                                    800 mL
                  TF:
   IVF:
                                                                  1,450 mL
   Blood products:
   Total out:
                                                                    450 mL
                                                                  2,455 mL
   Urine:
   2,455 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,800 mL
                                                                 -2,455 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Gen: tremulous, slurred spech
   HEENT: PERRL, o/p clear
   CV: RRR, no m/r/g
   Pulm: clear to auscultation bilaterally
   Abd: Soft, NT, ND, bowel sounds present
   Ext: no peripheral edema
   Labs / Radiology
   102 K/uL
   11.5 g/dL
   113 mg/dL
   0.7 mg/dL
   23 mEq/L
   3.7 mEq/L
   6 mg/dL
   94 mEq/L
   126 mEq/L
   32.9 %
   2.4 K/uL
        [image002.jpg]
                             [**2109-9-1**]  04:45 PM
                             [**2109-9-1**]  10:03 PM
                             [**2109-9-2**]  03:36 AM
   WBC
   2.4
   Hct
   32.9
   Plt
   102
   Cr
   0.7
   0.7
   TropT
   0.01
   <0.01
   <0.01
   Glucose
   144
   113
   Other labs: PT / PTT / INR:13.8/28.9/1.2, CK / CKMB /
   Troponin-T:285/4/<0.01, ALT / AST:34/62, Alk Phos / T Bili:68/2.3,
   Amylase / Lipase:51/, Differential-Neuts:77.3 %, Lymph:14.2 %, Mono:8.2
   %, Eos:0.3 %, Lactic Acid:1.7 mmol/L, Albumin:3.9 g/dL, LDH:218 IU/L,
   Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.6 mg/dL
   Echo: [**2109-9-1**].
   There is mild to moderate global left ventricular hypokinesis. There
   are three aortic valve leaflets. Trace aortic regurgitation is seen.
   Suboptimal image quality, can not rule out focal wall motion
   abnormality
   PRELIMINARY REPORT developed by a Cardiology Fellow. Not
   reviewed/approved by the Attending Echo Physician.
   [**Name10 (NameIs) 1680**] and Plan
   A/P:  Mr. [**Known lastname 1671**] is a 51 yo male with atmitted with seizure and
   dehydration, likely secondary to alcohol withdrawal.
   .
   1.  Seizure.  Patient has no history of seizures.  He has LFTs
   consistent with alcohol abuse, though patient reports he only drinks
   0-6 drinks/day and does not need to drink alcohol daily.  He
   transiently had a anion gap acidosis which may have been a transient
   lactic acidosis following the seizure.  Patient also has hyponatremia.
   Head CT did not reveal etiology of seizure, though showed evidence of
   substance abuse.  He denies headache, fevers, photophobia, nuchal
   rigidity, or elevated WBC so no need to continue abx for meningitis or
   pursue LP.  Patient requiring large amanouts of diazepam overnight due
   to elevated CIWAs.
   - diazepan 20 mg IV 1 hour prn CIWA>10, can switch to Pos today
   - seizure precations
   - monitor sodium
   - neuron consult to comment on CT head findings and need for further
   evaluation?
   .
   2.  Hyponatremia.  Patient presented with hyponatremia and reports
   symptoms of dehydration with concentrated urine.  However, urine sodium
   was high, consistent with SIADH.  Patient has history of hyponatremia
   in the past.
   - check TSH, cortisol
   - fluid restriction
   - follow Na
   .
   3.  Hypotension.  Hypotension in ED likely secondary to dehydration.
   Patient has normal lactate and no evidence of infection, so do not
   suspect sepsis.  Likely secondary to dehydration and diazepam.  EKG
   with some non-specific ST changes, but echo showed no focal wall
   abnormalities.
   - check orthostatics
   - IVFs
   - serial cardiac enzymes
   .
   4.  Alcohol abuse.  Patient denies significant alcohol abuse and
   endorses only [**12-21**] cage questions (has tried to cut back on alcohol).
   However, LFTs are consistent with alcohol abuse and CT head has
   findings consistent with substance abuse.  Stox and Utox were
   negative.  Echo shows global cardiac dysfunction, consistent with
   chronic alcohol abuse.
   - CIWA scale
   - obtain records from PCP to corroborate history of etoh abuse
   .
   5. FEN.  IVFs.  Regular diet.
   .
   6. DVT Ppx: HSQ.
   .
   Access: PIVs x 2
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2109-9-1**] 06:18 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Not indicated
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2109-09-03 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - OSH records obtained, showing the following workup from admission
   [**Date range (1) 1720**]:
    - CT head with cerebellar and cerebral atrophy
    - CT abd/pelvis and abd US with 1-2 lesions in liver suspicious for
   hemangioma. Fatty liver
    - pancytopenia led to BM biopsy which was wnl other than mod/severe
   thrombocytopenia with circulating giant platelets
   - PCP [**Name (NI) 167**], patient  may have complex social issues
   - CIWA changed to IV ativan (2-6mg Q1h) and PO valium.
   - tachycardic to 130s -> NS bolus and increased ativan per CIWA
   - Random cortisol level low: 1.3, TSH normal
   -received total of valium 30 mg, ativan 46 mg
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2109-9-1**] 06:39 PM
   Levofloxacin - [**2109-9-1**] 06:41 PM
   Infusions:
   Other ICU medications:
   Diazepam (Valium) - [**2109-9-2**] 05:48 PM
   Lorazepam (Ativan) - [**2109-9-3**] 01:30 AM
   Heparin Sodium (Prophylaxis) - [**2109-9-3**] 05:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-9-3**] 06:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.8
C (96.4
   HR: 86 (82 - 131) bpm
   BP: 123/72(85) {96/58(73) - 147/108(113)} mmHg
   RR: 12 (12 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.3 kg (admission): 92.4 kg
   Height: 75 Inch
             Total In:
                                                                    900 mL
                                                                     33 mL
   PO:
                                                                    400 mL
             TF:
   IVF:
                                                                    500 mL
                                                                     33 mL
   Blood products:
   Total out:
                                                                  3,640 mL
                                                                    185 mL
   Urine:
                                                                  3,640 mL
                                                                    185 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,740 mL
                                                                   -152 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///24/
   Physical Examination
   Gen: in bed in 4 pt restraints.
   HEENT: eomi, mmm, perrl
   CV: rrr
   PULM: cta b/l
   ABD: soft, nt/nd
   EXT: no c/c/e
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   89 K/uL
   11.8 g/dL
   84 mg/dL
   0.8 mg/dL
   24 mEq/L
   3.0 mEq/L
   8 mg/dL
   105 mEq/L
   135 mEq/L
   34.0 %
   2.7 K/uL
        [image002.jpg]
                             [**2109-9-1**]  04:45 PM
                             [**2109-9-1**]  10:03 PM
                             [**2109-9-2**]  03:36 AM
                             [**2109-9-2**]  11:05 AM
                             [**2109-9-3**]  03:48 AM
   WBC
   2.4
   3.9
   2.7
   Hct
   32.9
   34.4
   34.0
   Plt
   102
   101
   89
   Cr
   0.7
   0.7
   0.8
   TropT
   0.01
   <0.01
   <0.01
   <0.01
   Glucose
   144
   113
   84
   Other labs: PT / PTT / INR:13.8/28.9/1.2, CK / CKMB /
   Troponin-T:520/7/<0.01, ALT / AST:33/76, Alk Phos / T Bili:67/1.5,
   Amylase / Lipase:51/, Differential-Neuts:77.3 %, Lymph:14.2 %, Mono:8.2
   %, Eos:0.3 %, Lactic Acid:1.7 mmol/L, Albumin:3.8 g/dL, LDH:238 IU/L,
   Ca++:8.4 mg/dL, Mg++:2.1 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   A/P:  Mr. [**Known lastname 1671**] is a 51 yo male with atmitted with seizure and
   dehydration, likely secondary to alcohol withdrawal.
   .
   1.  Seizure.  Patient has no history of seizures.  He has LFTs
   consistent with alcohol abuse, though patient reports he only drinks
   0-6 drinks/day and does not need to drink alcohol daily.  He
   transiently had a anion gap acidosis which may have been a transient
   lactic acidosis following the seizure.  Patient also has hyponatremia.
   Head CT did not reveal etiology of seizure, though showed evidence of
   substance abuse.  He denies headache, fevers, photophobia, nuchal
   rigidity, or elevated WBC so no need to continue abx for meningitis or
   pursue LP.  Patient requiring large amanouts of diazepam overnight due
   to elevated CIWAs.
   - diazepan 20 mg IV 1 hour prn CIWA>10, can switch to Pos today
   - seizure precations
   - monitor sodium
   - neuron consult to comment on CT head findings and need for further
   evaluation?
   .
   2.  Hyponatremia.  Patient presented with hyponatremia and reports
   symptoms of dehydration with concentrated urine.  However, urine sodium
   was high, consistent with SIADH.  Patient has history of hyponatremia
   in the past.
   - check TSH, cortisol
   - fluid restriction
   - follow Na
   .
   3.  Hypotension.  Hypotension in ED likely secondary to dehydration.
   Patient has normal lactate and no evidence of infection, so do not
   suspect sepsis.  Likely secondary to dehydration and diazepam.  EKG
   with some non-specific ST changes, but echo showed no focal wall
   abnormalities.
   - check orthostatics
   - IVFs
   - serial cardiac enzymes
   .
   4.  Alcohol abuse.  Patient denies significant alcohol abuse and
   endorses only [**12-21**] cage questions (has tried to cut back on alcohol).
   However, LFTs are consistent with alcohol abuse and CT head has
   findings consistent with substance abuse.  Stox and Utox were
   negative.  Echo shows global cardiac dysfunction, consistent with
   chronic alcohol abuse.
   - CIWA scale
   - obtain records from PCP to corroborate history of etoh abuse
   .
   5. FEN.  IVFs.  Regular diet.
   .
   6. DVT Ppx: HSQ.
   .
   Access: PIVs x 2
   FULL CODE
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-9-2**] 09:34 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
         PCP: [**First Name8 (NamePattern2) **] [**Name11 (NameIs) 1721**], MD: [**Telephone/Fax (1) 1722**]
   Code status: Full code
   Disposition:

2109-09-04 06:45:00 Physician Resident Progress Note
Chief Complaint:
   51 yo male with history of pancytopenia and evidence of chronic ETOH
   use admitted with seizure and dehydration secondary to alcohol
   withdrawal.
   24 Hour Events:
   - Received total of Valium 30 mg PO and Ativan 6 mg IV overnight spaced
   out over 6 hrs between doses
   - [**Last Name (un) **] Stim done- 15.5-->20.7
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Acyclovir - [**2109-9-1**] 06:39 PM
   Levofloxacin - [**2109-9-1**] 06:41 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2109-9-3**] 12:01 PM
   Diazepam (Valium) - [**2109-9-3**] 10:00 PM
   Lorazepam (Ativan) - [**2109-9-4**] 12:30 AM
   Other medications:
   valium 10-20 mg po q1h:prn
   ativan 2-6 mg IV q1h:prn
   multivitamin
   thiamine
   folate
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2109-9-4**] 06:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 90 (85 - 120) bpm
   BP: 133/93(100) {101/65(76) - 147/93(100)} mmHg
   RR: 14 (12 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 92.3 kg (admission): 92.4 kg
   Height: 75 Inch
                  Total In:
                                                                  2,650 mL
                                                                    100 mL
   PO:
                                                                  1,400 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,250 mL
   Blood products:
   Total out:
                                                                  1,325 mL
                                                                    550 mL
   Urine:
                                                                  1,025 mL
                                                                    550 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,325 mL
                                                                   -450 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   Gen: Sleepy but arousable
   HEENT: pupils asymmetric at baseline, R pupil more dilated, both
   reactive
   Lungs: CTA bilaterally
   CV: RR, no m/r/g
   Abd: soft, NT, ND, no HSM palpated
   Ext: WWP
   Labs / Radiology
   122 K/uL
   11.6 g/dL
   105 mg/dL
   0.7 mg/dL
   23 mEq/L
   4.0 mEq/L
   8 mg/dL
   107 mEq/L
   138 mEq/L
   32.6 %
   4.4 K/uL
        [image002.jpg]
                             [**2109-9-1**]  04:45 PM
                             [**2109-9-1**]  10:03 PM
                             [**2109-9-2**]  03:36 AM
                             [**2109-9-2**]  11:05 AM
                             [**2109-9-3**]  03:48 AM
                             [**2109-9-3**]  02:53 PM
                             [**2109-9-4**]  04:43 AM
   WBC
   2.4
   3.9
   2.7
   4.4
   Hct
   32.9
   34.4
   34.0
   32.6
   Plt
   102
   101
   89
   122
   Cr
   0.7
   0.7
   0.8
   0.7
   TropT
   0.01
   <0.01
   <0.01
   <0.01
   Glucose
   144
   113
   84
   105
   Other labs: PT / PTT / INR:13.8/28.9/1.2, CK / CKMB /
   Troponin-T:457/7/<0.01, ALT / AST:33/76, Alk Phos / T Bili:67/1.5,
   Amylase / Lipase:51/, Differential-Neuts:77.3 %, Lymph:14.2 %, Mono:8.2
   %, Eos:0.3 %, Lactic Acid:1.7 mmol/L, Albumin:3.8 g/dL, LDH:238 IU/L,
   Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.2 mg/dL
   Assessment and Plan
   51 yo male with history of pancytopenia and evidence of chronic ETOH
   use admitted with seizure and dehydration secondary to alcohol
   withdrawal.
   .
   1.  EtOH Withdrawal
 With decreased benzo requirement overnight, now
   Q6hr. When agitated, still needs IV Ativan, but also takes the PO
   valium. No seizures overnight. Now calm, sleeping.
   - change to Q4hr CIWA scale
   - continue MVI, thiamine, folate
   - seizure precautions
   .
   2.  Alcohol abuse.  Patient denies significant alcohol abuse and
   endorses only [**12-21**] cage questions (has tried to cut back on alcohol).
   However, LFTs are consistent with alcohol abuse and CT head has
   findings consistent with substance abuse.  Stox and Utox were
   negative.  Echo shows global cardiac dysfunction, consistent with
   chronic alcohol abuse.
   - social work and follow up as outpatient for substance abuse
   - continued education
   .
   3. Pancytopenia
 chronic but slightly improved overnight. Likely [**1-19**]
   bone marrow suppression from ETOH
   -daily cbc
   .
   4.  s/p Hyponatremia.  Resolved with fluid restriction. Patient
   presented with hyponatremia and reports symptoms of dehydration with
   concentrated urine.  However, urine sodium was high, consistent with
   SIADH.  Patient has history of hyponatremia in the past.  Now
   resolved.  TSH wnl, cortisol low but [**Last Name (un) 402**] stim with some response.
   - fluid restriction
   - follow Na
   - patient may benefit from outpatient endocrine eval as he has had
   chronic hyponatremia and some episodes of hypotension
   .
   5.s/p Hypotension.  Resolved. Hypotension in ED likely secondary to
   dehydration.  Patient has normal lactate and no evidence of infection,
   so do not suspect sepsis.  Likely secondary to dehydration and
   diazepam.  EKG with some non-specific ST changes, but echo showed no
   focal wall abnormalities.  .
   .
   FEN.  IVFs.  Regular diet.
   .
   DVT Ppx: HSQ.
   .
   Access: PIVs x 2
   FULL CODE
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2109-9-2**] 09:34 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
         PCP: [**First Name8 (NamePattern2) **] [**Name11 (NameIs) 1721**], MD: [**Telephone/Fax (1) 1722**] in [**State 1655**]. Wife at bedside
   Code status: Full code
   Disposition: Stable for transfer to general medical floor today